US05614535
1.37 g of tert-butyl 1-{3-[4-(5-oxo-1,2,4-oxadiazolin-3-yl)phenyl]-2-oxo-5-oxazolidinylcarbonyl}piperidine-4-carboxylate are dissolved in 50 ml of methanol and hydrogenated over Raney nickel. The reaction mixture is, subsequently filtered and the filtrate is concentrated in vacuo. The product obtained is treated with 20 ml of ethyl acetate, with heating, and the product, after cooling, is filtered off with suction. Tert-butyl 1-[3-(4-amidinophenyl)-2-oxo-5-oxazolidinylcarbonyl}piperid-4-yl-carboxylate is obtained, m.p. 160°.

reactant | tert-butyl 1-{3-[4-(5-oxo-1,2,4-oxadiazolin-3-yl)phenyl]-2-oxo-5-oxazolidinylcarbonyl}piperidine-4-carboxylate | 1.37 g | O=C1NC(=NO1)C1=CC=C(C=C1)N1C(OC(C1)C(=O)N1CCC(CC1)C(=O)OC(C)(C)C)=O | C22H26N4O7
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | Tert-butyl 1-[3-(4-amidinophenyl)-2-oxo-5-oxazolidinylcarbonyl}piperid-4-yl-carboxylate | C(N)(=N)C1=CC=C(C=C1)N1C(OC(C1)C(=O)N1CCC(CC1)C(=O)OC(C)(C)C)=O | C21H28N4O5
